US04808595
2-Sulfamoylfuro[2,3-b]pyridine
A suspension of 2-sulfamoylfuro[2,3-b]pyridine-5-carboxylic acid (726 mg, 3.0 mmol) in quinoline (5 mL) containing copper dust (0.5 g) was heated under a nitrogen atmosphere at 225° C. for 3.5 hours. After cooling the reaction mixture to room temperature, chloroform and dilute sodium hydroxide solution were added. This biphasic mixture was filtered through a filter aid pad to remove black suspended material and then the basic aqueous layer was separated and acidified with conc. hydrochloric acid. The product was extracted into ethyl acetate which was dried over anhydrous sodium sulfate and filtered through a pad of charcoal. The residue obtained after removal of the solvent in vacuo was triturated with diethyl ether to give crude product (291 mg). This material was recrystallized from ethyl acetate to give pure product (250 mg, 42% yield), mp: 222°-223° C.

reactant | 2-sulfamoylfuro[2,3-b]pyridine-5-carboxylic acid | 3.0 mmol, 726 mg | S(N)(=O)(=O)C1=CC=2C(=NC=C(C2)C(=O)O)O1 | C8H6N2O5S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | quinoline | 5 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 0.5 g | [Cu] | Cu
product | 2-Sulfamoylfuro[2,3-b]pyridine | 250 mg, 42% yield | S(N)(=O)(=O)C1=CC=2C(=NC=CC2)O1 | C7H6N2O3S
